US09303023B2
1-(2-Bromoethyl)-6-methoxy-1H-benzo[d]imidazole
To a solution of 2-(6-methoxy-1H-benzo[d]imidazol-1-yl)ethanol (200 mg, 1.04 mmol) in DCM (6.0 mL), CBr4 (397 mg, 1.20 mmol) was added, then the reaction mixture was cooled to 0° C. and PPh3 (314 mg, 1.20 mmol) was added. After stirring at rt for 2 h the solvent was removed under reduced pressure to yield the title compound as a brown oil, which was used us such in the next step. LC-MS conditions B: tR=0.42 min, [M(79Br)+H]+=255.08.

reactant | 2-(6-methoxy-1H-benzo[d]imidazol-1-yl)ethanol | 1.04 mmol, 200 mg | COC=1C=CC2=C(N(C=N2)CCO)C1 | C10H12N2O2
reactant | CBr4 | 1.20 mmol, 397 mg | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 1.20 mmol, 314 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DCM | 6.0 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Bromoethyl)-6-methoxy-1H-benzo[d]imidazole | BrCCN1C=NC2=C1C=C(C=C2)OC | C10H11BrN2O
